US04435322
1-(2,4-Dimethoxybenzyl)-4-(hydroxymethyl)-2-azetidinone
47.6 g. (0.162 moles) of ethyl-1-(2,4-dimethoxybenzyl)-4-oxo-2-azetidine-carboxylate prepared according to Example 10 are reacted with 12.4 g. (0.327 moles) of sodium tetrahydrido-borate(III), in 200 ml. of methanol, under outer cooling with ice water for about half an hour. The solution is neutralized with a dilute aqueous hydrochloric acid solution and the oil precipitated from the aqueous mixture is shaken with five 50-ml. portions of ethyl acetate.

reactant | ethyl-1-(2,4-dimethoxybenzyl)-4-oxo-2-azetidine-carboxylate | 0.162 moles | C(C)OC(=O)C1N(C(C1)=O)CC1=C(C=C(C=C1)OC)OC | C15H19NO5
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 1-(2,4-Dimethoxybenzyl)-4-(hydroxymethyl)-2-azetidinone | COC1=C(CN2C(CC2CO)=O)C=CC(=C1)OC | C13H17NO4
